US04681938
A solution of 6.76 g of crude 3-nitrosoperhydro-1H-pyrido[1,2-a]pyrazine (prepared according to stage a)) in 30 ml of tetrahydrofuran is added dropwise at reflux temperature to a stirred suspension of 1.71 g of lithium aluminium hydride in 150 ml of tetrahydrofuran. The reaction mixture is stirred at room temperature for a further 3 hours; while cooling with ice 10 ml of aqueous 2N sodium hydroxide solution and then 10 ml of water are added and the whole is stirred at room temperature for a further 2 hours. The precipitate is filtered off with suction and then washed on the suction-filter with hot isopropyl alcohol. The filtrate (including the isopropyl alcohol portions) is concentrated by evaporation in vacuo and yields the desired 3-aminoperhydro-1H-pyrido[1,2-a]pyrazine (6.68 g) in the form of a slightly yellow-coloured oil of a purity that is sufficient for the hydrazone formation described above.

reactant | 3-nitrosoperhydro-1H-pyrido[1,2-a]pyrazine | 6.76 g | N(=O)C1NCC2N(C1)CCCC2 | C8H15N3O
reactant | lithium aluminium hydride | 1.71 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-aminoperhydro-1H-pyrido[1,2-a]pyrazine | 6.68 g | NC1NCC2N(C1)CCCC2 | C8H17N3
